US07501430B2
Preparation of N-[1-(4-fluorobenzyl)piperidin-3-yl]-4-[6-(4-fluorophenyl)-imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine
The racemic 4-[6-(4-fluorophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-3-yl]pyrimidin-2-amine hydrochloride (70 mg g, 0.15 mmol) was dissolved in a 80/20 mixture of DCE and DMF (1.2 ml) and treated with three equivalent of triethylamine (63 uL). The 4-fluorobenzaldehyde (19 mg, 0.15 mmol) was added, followed by a 0.2 M solution of Me4NBH(OAc)3 in 80/20 DCE/DMF (1.2 ml). The mixture was stirred at room temperature for 18 hours. The mixture was washed with a 1N sodium hydroxide solution (2 ml). Concentration in vacuo followed by purification on reverse phase HPLC provides the title compound as a pale yellow solid (42.4 mg, 56%). M.p.=131-133° C. 400 MHz 1H NMR (DMSO-d6) δ: 8.73 (br. s, 1H), 8.06 (d, J=5.1 Hz, 1H), 7.64-7.58 (m, 2H), 7.44 (d, J=4.7 Hz, 1H), 7.35-7.31 (m, 2H), 7.30-7.23 (m, 2H), 7.07 (t, J=8.8 Hz, 2H), 7.00 (br. s, 1H), 6.29 (d, J=5.1 Hz, 1H), 4.00-3.90 (m, 1H), 3.49 (s, 2H), 2.96-2.90 (m, 1H), 2.69-2.62 (m, 1H), 2.08-1.94 (m, 2H), 1.93-1.85 (m, 1H), 1.76-1.67 (m, 1H), 1.61-1.48 (m, 1H), 1.42-1.30 (m, 1H). LCMS: 503 [M+H].

reactant | racemic 4-[6-(4-fluorophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-3-yl]pyrimidin-2-amine hydrochloride | 0.15 mmol, 70 mg | Cl.FC1=CC=C(C=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1CNCCC1
reactant | triethylamine | 63 uL, three equivalent | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzaldehyde | 0.15 mmol, 19 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | DCE DMF | 1.2 ml | ClCCCl.CN(C)C=O
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | N-[1-(4-fluorobenzyl)piperidin-3-yl]-4-[6-(4-fluorophenyl)-imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 42.4 mg, 56% | FC1=CC=C(CN2CC(CCC2)NC2=NC=CC(=N2)C2=C(N=C3SC=CN32)C3=CC=C(C=C3)F)C=C1 | C27H24F2N6S
